US07741315B2
Step 1: 11-(3-Chloro-4-fluorobenzyl)-9-methoxy-2-(2-hydroxyethyl)-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione
A mixture of 11-(3-chloro-4-fluorobenzyl)-9-methoxy-2-[2-(benzyloxy)ethyl]-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(1H)-trione (0.55 g, 0.97 mmol) and 5% rhodium on carbon (1.10 g) in ethyl acetate (22 mL) was stirred under a balloon of hydrogen at room temperature overnight. The product mixture was filtered through a pad of Celite. The filtrate was concentrated under vacuum to afford the title compound. This material was used in the following reaction without further purification.

reactant | 11-(3-chloro-4-fluorobenzyl)-9-methoxy-2-[2-(benzyloxy)ethyl]-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(1H)-trione | 0.97 mmol, 0.55 g | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CCCC4)CCOCC4=CC=CC=C4)=O)=O)OC)=O)C=CC1F | C30H31ClFN3O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 22 mL | C(C)(=O)OCC | C4H8O2
catalyst | rhodium on carbon | 1.10 g | [Rh] | Rh
product | 11-(3-Chloro-4-fluorobenzyl)-9-methoxy-2-(2-hydroxyethyl)-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CCCC4)CCO)=O)=O)OC)=O)C=CC1F | C23H25ClFN3O5
